US05391556
N-[1-(1H-Benzimidazol-5-yl-methyl)-2-(4-methyl-piperidin-1-yl)-2-oxo-ethyl]-2'-nitro-4-biphenylylsulphonamide
Prepared from 1-(1H-benzimidazol-5-yl-methyl)-2-(4-methyl-piperidin-1-yl)-2-oxo-ethylamine and 2'-nitro-4-biphenylyl-sulphonic acid chloride analogously to Example 2.

reactant | 1-(1H-benzimidazol-5-yl-methyl)-2-(4-methyl-piperidin-1-yl)-2-oxo-ethylamine | N1C=NC2=C1C=CC(=C2)CC(C(=O)N2CCC(CC2)C)N | C16H22N4O
reactant | 2'-nitro-4-biphenylyl-sulphonic acid chloride | [N+](=O)([O-])C1=C(C=CC=C1)C1=CC=C(C=C1)S(=O)(=O)Cl | C12H8ClNO4S
product | N-[1-(1H-Benzimidazol-5-yl-methyl)-2-(4-methyl-piperidin-1-yl)-2-oxo-ethyl]-2'-nitro-4-biphenylylsulphonamide | N1C=NC2=C1C=CC(=C2)CC(C(=O)N2CCC(CC2)C)NS(=O)(=O)C2=CC=C(C=C2)C2=C(C=CC=C2)[N+](=O)[O-] | C28H29N5O5S
